US07737179B2
To a stirred solution of 6-hydroxy-2,5,7,8-tetramethyl-chroman-2-carboxylic acid (2.6 g, 10 mmol) in 80 mL of CH2Cl2 was added dicyclohexylcarbodiimide (2.2 g, 10 mmol). After stirring for 5 min, dimethylaminoethanol (0.93 g, 10 mmol) dissolved in 10 mL of CH2Cl2 was added to the mixture to form a cloudy suspension. The solution was stirred at room temperature overnight, and the resulting white suspension was filtered to give a clear solution. The solution was washed three times with water, and the organic layer was collected and dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated by rotary evaporation, yielding a viscous, yellowish oil. The residue obtained was loaded to a silica gel column with a mixed solvent of EtOAc and hexane (1:1, v/v). The column was eluted with EtOAc/hexane (1:1, v/v) to remove the less polar impurity. Subsequently, a mixed solvent of CH2Cl2/MeOH/NH4OH (90:10:0.5, v/v/v) was used to elute the desired product from the column. 1.2 g of 6-Hydroxy-2,5,7,8-tetramethyl-chroman-2-carboxylic acid 2-dimethylaminoethyl ester were obtained as a viscous yellowish oil, which solidified upon standing at room temperature. MS: m/z=322.2 (M+H+). 1H NMR (CDCl3, 300 Hz) 4.19 (t, J=5.8 Hz, 2H), 2.52-1.80 (m, 4H), 2.48 (t, 2H), 2.20 (s, 6H), 2.18 (s, 3H), 2.16 (s, 3H), 2.06 (s, 3H), 1.61 (s, 3H). 13C NMR (CDCl3, 75 Hz) 173.9, 145.6, 145.4, 122.5, 121.6, 118.8, 116.9, 77.0, 63.3, 57.5, 45.7, 30.6, 25.4, 21.0, 12.3, 11.9, 11.3.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-chroman-2-carboxylic acid | 10 mmol, 2.6 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminoethanol | 10 mmol, 0.93 g | CN(C)CCO | C4H11NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 6-Hydroxy-2,5,7,8-tetramethyl-chroman-2-carboxylic acid 2-dimethylaminoethyl ester | 1.2 g | CN(CCOC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C)C | C18H27NO4
